US06627651B1
To methyl 2-[(1-tert-butoxycarbonylpiperidin-4-yl)oxy]-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (1245 mg, 3.10 mmol) dissolved in a mixed solvent of methanol (10 ml) and THF (10 ml) was added a 1N aqueous solution of sodium hydroxide (9.3 ml), and the resulting mixture was stirred at room temperature for 23 hours. The reaction mixture was mixed with 1 N hydrochloric acid (9.3 ml) at 0° C., was concentrated under reduced pressure and was mixed with water, and an insoluble material was collected by filtration. The insoluble material was washed with water, and was dried under reduced pressure to obtain 2-[(1-tert-butoxycarbonylpiperidin-4-yl)oxy]-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid (1150 mg, 2.97 mmol, 96%).

reactant | methyl 2-[(1-tert-butoxycarbonylpiperidin-4-yl)oxy]-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 3.10 mmol, 1245 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C23H31NO5
reactant | sodium hydroxide | 9.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 9.3 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-[(1-tert-butoxycarbonylpiperidin-4-yl)oxy]-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | 2.97 mmol, 1150 mg, 96% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=CC2=C(C=C(CCC2)C(=O)O)C1 | C22H29NO5
